US06339045B1
Production of N-phenyl-4-methoxy-6-{3-(trifluoromethoxy)phenoxy}-2-pyridine carboxamide (compound No. I-20)
1.0 g (0.0027 mol) of 2-bromo-4-methoxy-6-{3-(trifluoromethoxy)phenoxy} pyridine was dissolved in about 15 ml of diethyl ether. The obtained solution was cooled in a dry ice-acetone bath in an argon atmosphere and mixed with 2.6 ml of a 1.6M-hexane solution of BuLi (0.0027×1.5 mol), followed by stirring for about 10 minutes. After 0.74 g (0.0027×2.3 mol) of phenyl isocyanate dissolved in about 5 ml of diethyl ether was added to the reaction solution, the obtained solution was removed from the bath and stirred at room temperature for about 45 minutes. The reaction solution was mixed with about 5 ml of a 1.2N-aqueous hydrochloric acid solution, and then distributed in ethyl acetate-water, followed by washing with saturated brine. The organic phase of the obtained solution was dried with anhydrous sodium sulfate, concentrated and subjected to silica gel column chromatography (eluting solution: ethyl acetate/hexane) to separate a main fraction therefrom. The obtained fraction was concentrated and then subjected to precipitation using hexane, thereby obtaining an aimed product.

reactant | 2-bromo-4-methoxy-6-{3-(trifluoromethoxy)phenoxy} pyridine | 0.0027 mol, 1.0 g | BrC1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)OC(F)(F)F | C13H9BrF3NO3
reactant | hexane | CCCCCC | C6H14
reactant | BuLi | 1.5 mol | [Li]CCCC
reactant | phenyl isocyanate | 2.3 mol, 0.74 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | diethyl ether | about 15 ml | C(C)OCC | C4H10O
solvent | diethyl ether | about 5 ml | C(C)OCC | C4H10O
product | N-phenyl-4-methoxy-6-{3-(trifluoromethoxy)phenoxy}-2-pyridine carboxamide | C1(=CC=CC=C1)NC(=O)C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)OC(F)(F)F | C20H15F3N2O4
